US07902252B2
4.45. Synthesis of 6-(3-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (134)
The title compound was synthesized from ethyl 6-(3-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (42.1 mg, 0.17 mmol, 1 equiv) and sodium hydroxide (0.42 mL, 10 M, 25 equiv), according to General Procedure 7. The resulting product was purified by preparative HPLC using the Chromeleon purification system. A 0.1% formic acid/1% acetonitrile mixture in water (aqueous phase) and methanol (no modifier added—organic phase) using a 50 mm Dynamax HPLC C-18 column at 28 mL/min (initial gradient of 40% methanol and increasing to 100% over 7 minutes) afforded the title compound (24.2 mg, 63%) with purity by HPLC of 93.1% (UV) and 97.4% (ELSD). LCMS m/z 268 (M−H). 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.21-7.27 (m, 2H), 7.11-7.19 (m, 3H), 6.56 (s, 1H), 2.98-3.07 (m, 1H), 2.47-2.66 (m, 5H), 1.95-2.05 (m, 1H), 1.64-1.82 (m, 3H), 1.40-1.51 (m, 1H).

reactant | ethyl 6-(3-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.17 mmol, 42.1 mg, 1 equiv | C1(=CC=CC=C1)CCCC1CCC2=C1NC(=C2)C(=O)OCC | C19H23NO2
reactant | sodium hydroxide | 10 M, 0.42 mL, 25 equiv | [OH-].[Na+]
product | 6-(3-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 24.2 mg, 63% | C1(=CC=CC=C1)CCCC1CCC2=C1NC(=C2)C(=O)O | C17H19NO2
